US08008298B2
2-bromo-7-iodo-5H-pyrrolo[2,3-b]pyrazine.
1.5 g of 2-bromo-5H-pyrrolo[2,3-b]pyrazine (7.57 mmol, 1 eq) was dissolved in 20 ml of N,N-dimethylformamide. 1.27 g of crushed potassium hydroxide pellets (22.7 mmol, 3 eq) were then added and the mixture was stirred for 10 min. The reaction flask was cooled in an ice bath and 1.92 g of iodine (7.57 mmol, 1 eq) was added in several portions over 1 hr. After 30 min. more the reaction was complete and about 10 ml 1M sodium thiosulfate solution, water and ethyl acetate were added. The layers were separated and the aqueous layer was extracted with ethyl acetate two times more. The combined ethyl acetate layers were washed with water and saturated sodium chloride solution, and then dried over sodium sulfate. After filtration and evaporation of solvent 2.4 g of solid (97%) was obtained and used directly in the next reaction.

reactant | 2-bromo-5H-pyrrolo[2,3-b]pyrazine | 7.57 mmol, 1.5 g, 1 eq | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | potassium hydroxide | 1.27 g | [OH-].[K+]
reactant | iodine | 7.57 mmol, 1.92 g, 1 eq | II | I2
reactant | sodium thiosulfate | 1M, about 10 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-bromo-7-iodo-5H-pyrrolo[2,3-b]pyrazine | BrC=1N=C2C(=NC1)NC=C2I | C6H3BrIN3
